US09340506B2
To (4-cyclopropanesulfonyl-phenyl)-[(tetrahydro-pyran-4-yloxy)]-acetic acid ethyl ester (23.2 g, 62.87 mmol) was added a solution of lithium hydroxide (13.0 g, 314.36 mmol) in water (150 mL) followed by THF (200 mL) and methanol (10 mL) and stirred for 2 hours at 25° C. Organic solvents were evaporated from the reaction mixture and aqueous layer was acidified 1N HCl, extracted with ethyl acetate (3×200 mL), organic layer was washed with brine solution, dried over anhydrous sodium sulfate, and washed concentrated under reduced pressure to provide (4-cyclopropanesulfonyl-phenyl)-[(tetrahydro-pyran-4-yloxy)]-acetic acid (18.49 g)

reactant | (4-cyclopropanesulfonyl-phenyl)-[(tetrahydro-pyran-4-yloxy)]-acetic acid ethyl ester | 62.87 mmol, 23.2 g | C(C)OC(C(OC1CCOCC1)C1=CC=C(C=C1)S(=O)(=O)C1CC1)=O | C18H24O6S
reactant | lithium hydroxide | 314.36 mmol, 13.0 g | [OH-].[Li+]
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 150 mL | O | H2O
product | (4-cyclopropanesulfonyl-phenyl)-[(tetrahydro-pyran-4-yloxy)]-acetic acid | 18.49 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
